************************************************************************
* auCdl Netlist:
* 
* Library Name:  Hummingbird
* Top Cell Name: 16B_XOR
* View Name:     schematic
* Netlisted on:  Mar 18 17:31:36 2018
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS!
+        VDD!

*.PIN VSS!
*+    VDD!

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    XOR2_X1
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_X1 A B Z
*.PININFO A:I B:I Z:O
MM_i_19 net_001 A Z VSS! NM W=4.15E-07 L=5E-08
MM_i_24 VSS! B net_001 VSS! NM W=4.15E-07 L=5E-08
MM_i_0 net_000 A VSS! VSS! NM W=2.1E-07 L=5E-08
MM_i_13 Z net_000 VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_7 VSS! B net_000 VSS! NM W=2.1E-07 L=5E-08
MM_i_30 net_002 A net_000 VDD! PM W=3.15E-07 L=5E-08
MM_i_35 VDD! B net_002 VDD! PM W=3.15E-07 L=5E-08
MM_i_41 net_003 net_000 VDD! VDD! PM W=6.3E-07 L=5E-08
MM_i_47 Z A net_003 VDD! PM W=6.3E-07 L=5E-08
MM_i_53 net_003 B Z VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: Hummingbird
* Cell Name:    16B_XOR
* View Name:    schematic
************************************************************************

.SUBCKT 16B_XOR O<0> O<1> O<2> O<3> O<4> O<5> O<6> O<7> O<8> O<9> O<10> O<11> 
+ O<12> O<13> O<14> O<15> a<0> a<1> a<2> a<3> a<4> a<5> a<6> a<7> a<8> a<9> 
+ a<10> a<11> a<12> a<13> a<14> a<15> b<0> b<1> b<2> b<3> b<4> b<5> b<6> b<7> 
+ b<8> b<9> b<10> b<11> b<12> b<13> b<14> b<15>
*.PININFO a<0>:I a<1>:I a<2>:I a<3>:I a<4>:I a<5>:I a<6>:I a<7>:I a<8>:I 
*.PININFO a<9>:I a<10>:I a<11>:I a<12>:I a<13>:I a<14>:I a<15>:I b<0>:I b<1>:I 
*.PININFO b<2>:I b<3>:I b<4>:I b<5>:I b<6>:I b<7>:I b<8>:I b<9>:I b<10>:I 
*.PININFO b<11>:I b<12>:I b<13>:I b<14>:I b<15>:I O<0>:O O<1>:O O<2>:O O<3>:O 
*.PININFO O<4>:O O<5>:O O<6>:O O<7>:O O<8>:O O<9>:O O<10>:O O<11>:O O<12>:O 
*.PININFO O<13>:O O<14>:O O<15>:O
XI15 a<15> b<15> O<15> / XOR2_X1
XI14 a<14> b<14> O<14> / XOR2_X1
XI13 a<13> b<13> O<13> / XOR2_X1
XI12 a<12> b<12> O<12> / XOR2_X1
XI11 a<11> b<11> O<11> / XOR2_X1
XI10 a<10> b<10> O<10> / XOR2_X1
XI9 a<9> b<9> O<9> / XOR2_X1
XI8 a<8> b<8> O<8> / XOR2_X1
XI7 a<7> b<7> O<7> / XOR2_X1
XI6 a<6> b<6> O<6> / XOR2_X1
XI5 a<5> b<5> O<5> / XOR2_X1
XI4 a<4> b<4> O<4> / XOR2_X1
XI3 a<3> b<3> O<3> / XOR2_X1
XI2 a<2> b<2> O<2> / XOR2_X1
XI1 a<1> b<1> O<1> / XOR2_X1
XI0 a<0> b<0> O<0> / XOR2_X1
.ENDS

