************************************************************************
* auCdl Netlist:
* 
* Library Name:  Hummingbird
* Top Cell Name: 16BitAdder
* View Name:     schematic
* Netlisted on:  Mar 18 16:55:37 2018
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS!
+        VDD!
+        gnd!

*.PIN VSS!
*+    VDD!
*+    gnd!

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    AND2_X1
* View Name:    schematic
************************************************************************

.SUBCKT AND2_X1 A1 A2 ZN
*.PININFO A1:I A2:I ZN:O
MM_i_2 net_0 A1 ZN_neg VSS! NM W=2.1E-07 L=5E-08
MM_i_3 VSS! A2 net_0 VSS! NM W=2.1E-07 L=5E-08
MM_i_0 ZN ZN_neg VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_5 VDD! A2 ZN_neg VDD! PM W=3.15E-07 L=5E-08
MM_i_4 ZN_neg A1 VDD! VDD! PM W=3.15E-07 L=5E-08
MM_i_1 ZN ZN_neg VDD! VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    OR2_X1
* View Name:    schematic
************************************************************************

.SUBCKT OR2_X1 A1 A2 ZN
*.PININFO A1:I A2:I ZN:O
MM_i_2 ZN_neg A1 VSS! VSS! NM W=2.1E-07 L=5E-08
MM_i_3 VSS! A2 ZN_neg VSS! NM W=2.1E-07 L=5E-08
MM_i_0 ZN ZN_neg VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_4 net_0 A1 ZN_neg VDD! PM W=3.15E-07 L=5E-08
MM_i_5 VDD! A2 net_0 VDD! PM W=3.15E-07 L=5E-08
MM_i_1 ZN ZN_neg VDD! VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    XOR2_X1
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_X1 A B Z
*.PININFO A:I B:I Z:O
MM_i_19 net_001 A Z VSS! NM W=4.15E-07 L=5E-08
MM_i_24 VSS! B net_001 VSS! NM W=4.15E-07 L=5E-08
MM_i_0 net_000 A VSS! VSS! NM W=2.1E-07 L=5E-08
MM_i_13 Z net_000 VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_7 VSS! B net_000 VSS! NM W=2.1E-07 L=5E-08
MM_i_30 net_002 A net_000 VDD! PM W=3.15E-07 L=5E-08
MM_i_35 VDD! B net_002 VDD! PM W=3.15E-07 L=5E-08
MM_i_41 net_003 net_000 VDD! VDD! PM W=6.3E-07 L=5E-08
MM_i_47 Z A net_003 VDD! PM W=6.3E-07 L=5E-08
MM_i_53 net_003 B Z VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: Hummingbird
* Cell Name:    FullAdder
* View Name:    schematic
************************************************************************

.SUBCKT FullAdder A B Cin Cout Sum
*.PININFO A:I B:I Cin:I Cout:O Sum:O
XI57 Cin xor1_out and2_or / AND2_X1
XI56 A B and1_or / AND2_X1
XI58 and2_or and1_or Cout / OR2_X1
XI54 A B xor1_out / XOR2_X1
XI55 xor1_out Cin Sum / XOR2_X1
.ENDS

************************************************************************
* Library Name: Hummingbird
* Cell Name:    16BitAdder
* View Name:    schematic
************************************************************************

.SUBCKT 16BitAdder A<0> A<1> A<2> A<3> A<4> A<5> A<6> A<7> A<8> A<9> A<10> 
+ A<11> A<12> A<13> A<14> A<15> B<0> B<1> B<2> B<3> B<4> B<5> B<6> B<7> B<8> 
+ B<9> B<10> B<11> B<12> B<13> B<14> B<15> cout sum<0> sum<1> sum<2> sum<3> 
+ sum<4> sum<5> sum<6> sum<7> sum<8> sum<9> sum<10> sum<11> sum<12> sum<13> 
+ sum<14> sum<15>
*.PININFO A<0>:I A<1>:I A<2>:I A<3>:I A<4>:I A<5>:I A<6>:I A<7>:I A<8>:I 
*.PININFO A<9>:I A<10>:I A<11>:I A<12>:I A<13>:I A<14>:I A<15>:I B<0>:I B<1>:I 
*.PININFO B<2>:I B<3>:I B<4>:I B<5>:I B<6>:I B<7>:I B<8>:I B<9>:I B<10>:I 
*.PININFO B<11>:I B<12>:I B<13>:I B<14>:I B<15>:I cout:O sum<0>:O sum<1>:O 
*.PININFO sum<2>:O sum<3>:O sum<4>:O sum<5>:O sum<6>:O sum<7>:O sum<8>:O 
*.PININFO sum<9>:O sum<10>:O sum<11>:O sum<12>:O sum<13>:O sum<14>:O sum<15>:O
XI15 A<8> B<8> c_out_test<7> c_out_test<8> sum<8> / FullAdder
XI14 A<12> B<12> c_out_test<11> c_out_test<12> sum<12> / FullAdder
XI13 A<15> B<15> c_out_test<14> cout sum<15> / FullAdder
XI12 A<14> B<14> c_out_test<13> c_out_test<14> sum<14> / FullAdder
XI11 A<13> B<13> c_out_test<12> c_out_test<13> sum<13> / FullAdder
XI10 A<11> B<11> c_out_test<10> c_out_test<11> sum<11> / FullAdder
XI9 A<10> B<10> c_out_test<9> c_out_test<10> sum<10> / FullAdder
XI8 A<9> B<9> c_out_test<8> c_out_test<9> sum<9> / FullAdder
XI7 A<4> B<4> c_out_test<3> c_out_test<4> sum<4> / FullAdder
XI6 A<7> B<7> c_out_test<6> c_out_test<7> sum<7> / FullAdder
XI5 A<6> B<6> c_out_test<5> c_out_test<6> sum<6> / FullAdder
XI4 A<5> B<5> c_out_test<4> c_out_test<5> sum<5> / FullAdder
XI3 A<3> B<3> c_out_test<2> c_out_test<3> sum<3> / FullAdder
XI2 A<2> B<2> c_out_test<1> c_out_test<2> sum<2> / FullAdder
XI1 A<1> B<1> c_out_test<0> c_out_test<1> sum<1> / FullAdder
XI0 A<0> B<0> gnd! c_out_test<0> sum<0> / FullAdder
.ENDS

